US09163027B2
2-[2-(4-Chlorophenoxy)ethoxy]-5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine
A mixture of 2-(4-chlorophenoxy)ethan-1-ol (4.0 g, 23.19 mmol) and tetrahydrofuran (40 mL) was added to a 200 mL RBF under a nitrogen atmosphere with a magnetic stirring bar. Sodium hydride (60% dispersion in mineral oil) (1.26 g, 31.62 mmol) was added portion-wise (4×˜315 mg) over 10 minutes (Effervescence). The reaction was stirred for 10 minutes before 2-methanesulfonyl-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine (4.76 g, 21.08 mmol) was added portion-wise (5×˜0.95 g) (Effervescence). Progress of the reaction was monitored by analytical HPLC with UV detection at 215 nm. 2-Methanesulfonyl-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine elutes with retention time of 1.3 min, 2-(4-chlorophenoxy)ethan-1-ol elutes with retention time of 4.5 min, and the title compound elutes with retention time of 5.7 min. A precipitate is visible after 5 minutes of reaction. An additional portion of tetrahydrofuran (10 mL) was added to aid stirring. After 30 minutes the reaction was concentrated and then partitioned between dichloromethane (100 mL) and water (50 mL). The aqueous layer was extracted once more with dichloromethane (100 mL), and the combined organic layer was dried (Na2SO4), filtered, and concentrated. To a mixture of the crude material in 1% methanol in dichloromethane (60 mL), silica gel (10 g) was added, and the mixture swirled for 10 minutes. The silica gel was removed by filtration, rinsed with dichloromethane (100 mL), and the organic solvent was concentrated under reduced pressure. The solid was dissolved in warm ethanol (125 mL) and water (13 mL), and allowed to cool overnight. Crystalline material was isolated by filtration, rinsed with ethanol:water (10:1) (110 mL) and allowed to dry. A light pink color remained. The solid was then dissolved in 2% methanol in dichloromethane (30 mL), and to this mixture, silica gel (5 g) was added and swirled for 20 minutes. The silica gel was removed by filtration through a plug of fresh silica gel (2 g), rinsed with 2% methanol in dichloromethane (50 mL), and the organic solvent was concentrated under reduced pressure. The solid was dissolved in warm ethanol (95 mL) and allowed to cool overnight. An off-white crystalline material was isolated by filtration, rinsed with ethanol (75 mL), and dried to afford the title compound as an off white solid (4.22 g, 62% yield). 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.34 (d, 2H), 7.09 (s, 1H), 7.02 (d, 2H), 4.67 (t, 2H), 4.36 (t, 2H), 2.63 (s, 3H), 2.52 (s, 3H). EM (calc.): 318.1; MS (ESI) m/e: 319.2 (M+H)+.

reactant | 2-(4-chlorophenoxy)ethan-1-ol | 23.19 mmol, 4.0 g | ClC1=CC=C(OCCO)C=C1 | C8H9ClO2
reactant | Sodium hydride | 31.62 mmol, 1.26 g | [H-].[Na+]
reactant | 2-methanesulfonyl-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine | 21.08 mmol, 4.76 g | CS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C8H10N4O2S
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-[2-(4-Chlorophenoxy)ethoxy]-5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine | ClC1=CC=C(OCCOC2=NN3C(N=C(C=C3C)C)=N2)C=C1 | C15H15ClN4O2
